US04937246
In a mixture of methylene chloride (60 ml) and methanol (80 ml) is dissolved methyl 7,8-dimethoxy-5-oxo-2,3,4,5-terahydro-1-benzoxepin-4-carboxylate obtained in Reference Example 11 (1.9 g). To the solution is added, while stirring, sodium borohydride (0.6 g) in limited amounts taking one hour. The reaction mixture is treated with dilute hydrochloric acid, followed by extraction with methylene chloride. The organic layer is washed with a small volume of a saturated aqueous saline solution, dried, and concentrated under reduced pressure. The residue is dissolved in methanol (5 ml), and to the solution is added a 2N aqueous solution of sodium hydroxide (20 ml). The mixture is stirred at room temperature for two hours. After addition of water (50 ml), the reaction mixture is washed with ether. The aqueous layer is acidified with dilute hydrochloric acid, and extracted with methylene chloride. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is dissolved in dioxane (10 ml), to the solution is added concentrated hydrochloric acid (3 ml), and then the mixture is stirred for one hour at 90° C. After cooling, the reaction mixture is extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is recrystallized from ethyl acetate to afford 7,8-dimethoxy-2,3-dihydro-1-benzoxepin-4carboxylic acid as colorless needles (1.2 g), m. p. 209°-210° C.

reactant | methyl 7,8-dimethoxy-5-oxo-2,3,4,5-terahydro-1-benzoxepin-4-carboxylate | COC=1C(=CC2=C(C(C(CCO2)C(=O)OC)=O)C1)OC | C14H16O6
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 80 ml | CO | CH4O
product | 7,8-dimethoxy-2,3-dihydro-1-benzoxepin-4carboxylic acid | 1.2 g | COC=1C(=CC2=C(C=C(CCO2)C(=O)O)C1)OC | C13H14O5
